US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride (1.5 g) as starting compound and 5-(1-naphthyloxy)-pentyl chloride (1.2 g) were reacted and treated in the same manner as in Example 168 to give 1.88 g of 4-amino-5-chloro-N-((1-(5-(1-naphthyloxy)pentyl)piperidin-4-yl)methyl)-2-methoxybenzamide.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | 1.5 g | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | 5-(1-naphthyloxy)-pentyl chloride | 1.2 g | C1(=CC=CC2=CC=CC=C12)OCCCCCCl | C15H17ClO
product | 4-amino-5-chloro-N-((1-(5-(1-naphthyloxy)pentyl)piperidin-4-yl)methyl)-2-methoxybenzamide | 1.88 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCOC2=CC=CC3=CC=CC=C23)C=C1Cl)OC | C29H36ClN3O3
